US08835418B2
13.2. 1-(Piperidin-4-ylmethyl)-1H-pyrazole-4-carboxamide hydrochloride
A suspension of 0.96 g (3.11 mmol) of tert-butyl 4-(4-carbamoylpyrazol-1-ylmethyl)piperidine-1-carboxylate, obtained in stage 13.1., in 25 ml of a 5N solution of hydrochloric acid (124 mmol) in isopropanol is stirred overnight. It is evaporated to dryness and then coevaporated twice with 25 ml of ethyl acetate. The product is resuspended in 25 ml of ethyl acetate. It is filtered, washed twice with 10 ml of ethyl acetate and dried under vacuum in order to obtain 0.91 g (3.23 mmol) of product in the form of a white powder.

reactant | tert-butyl 4-(4-carbamoylpyrazol-1-ylmethyl)piperidine-1-carboxylate | 3.11 mmol, 0.96 g | C(N)(=O)C=1C=NN(C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C15H24N4O3
reactant | hydrochloric acid | 124 mmol | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-(Piperidin-4-ylmethyl)-1H-pyrazole-4-carboxamide hydrochloride | 3.23 mmol, 0.91 g | Cl.N1CCC(CC1)CN1N=CC(=C1)C(=O)N | InChI=1S/C10H16N4O.ClH/c11-10(15)9-5-13-14(7-9)6-8-1-3-12-4-2-8;/h5,7-8,12H,1-4,6H2,(H2,11,15);1H
